US06566572B2
To a mixed solution of 286.6 g (0.85 mol) of 9,10-dibromoanthracene, 29.9 g (0.0255 mol) of Pd(PPh3)4 and 3L of benzene was added 1.5L of 2M Na2CO3aq and 1.2 L of ethanol solution of 228.6 g (1.87 mol) of phenyl boric acid, followed by refluxing for 6 hours. To the reaction solution was added 200 mL of 30% H2O2 to terminate the reaction, and an organic layer was recovered. The organic layer was washed with water and dehydrated by anhydrous magnesium sulfate, followed by filtration and concentration of the filtrate to 750 mL in total. The precipitated crystal was filtered and dried to give 212.0 g of 9,10-diphenylanthracene (Yield 75.5%, HPLC purity 97.6%).

reactant | 9,10-dibromoanthracene | 0.85 mol, 286.6 g | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)Br | C14H8Br2
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | phenyl boric acid | 1.87 mol, 228.6 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | H2O2 | 200 mL | OO | H2O2
catalyst | Pd(PPh3)4 | 0.0255 mol, 29.9 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 1.2 L | C(C)O | C2H6O
product | 9,10-diphenylanthracene | 212.0 g, Yield 75.5% | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C26H18
